US07776857B2
To a mixture of lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate (2.125 g, 9.7 mmol) and DMF (20 drops) in CH2Cl2(35 mL), oxalyl dichloride (1.3 ml, 15 mmol) was added dropwise. The mixture was stirred at RT for 2.5 h and then was concentrated to give a yellow solid. The resultant crude acid chloride and (Z)-N′-hydroxyacetamidine (1.4 g, 19 mmol) were heated at 140° C. in xylene/pyridine (6/1, 35 mL) for 1 h. The mixture was diluted with CH2Cl2, and then washed with water, then sat. NaHCO3 and brine. The crude product was purified via column chromatography on silica gel (RediSep 120 g column, gradient elution with 0-50% EtOAc in Hexane) to afford 7-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridine as a white solid.

reactant | lithium 7-chlorothieno[3,2-b]pyridine-2-carboxylate | 9.7 mmol, 2.125 g | ClC1=C2C(=NC=C1)C=C(S2)C(=O)[O-].[Li+]
reactant | oxalyl dichloride | 15 mmol, 1.3 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | (Z)-N′-hydroxyacetamidine | 19 mmol, 1.4 g | O\N=C(\C)/N | C2H6N2O
catalyst | DMF | 20 drops | CN(C)C=O | C3H7NO
solvent | CH2Cl2 | 35 mL | C(Cl)Cl | CH2Cl2
solvent | xylene pyridine | 35 mL | C=1(C(=CC=CC1)C)C.N1=CC=CC=C1
product | 7-chloro-2-(3-methyl-1,2,4-oxadiazol-5-yl)thieno[3,2-b]pyridine | ClC1=C2C(=NC=C1)C=C(S2)C2=NC(=NO2)C | C10H6ClN3OS
